US05929117
3-(3'-Aminophenyl)-3-(3,4-dimethoxyphenyl)acrylonitrile (E and Z Isomers)
To a solution of 3-(3,4-dimethoxyphenyl)-3-(3'-nitrophenyl)acrylonitrile (0.7 g, 2.3 mmol) in 40 mL of ethyl acetate was added 0.1 g of 10% palladium on carbon catalyst. The mixture was hydrogenated in a Parr-Shaker apparatus at 55-60 psi of hydrogen for 2.5 hours. The reaction mixture was filtered through celite and the filtrate was concentrated in vacuo to afford the crude product. The crude product was purified by flash column chromatography (silica gel, 15% ethyl acetate/methylene chloride) to afford 0.25 g (56%) of a mixture of the E and Z isomers as a yellow solid: mp 100-101° C.; 1H NMR (CDCl3) δ 7.30-6.59 (m, 14H); 5.63 (s, 1H), 5.59 (s, 1H), 3.94 (s, 3H), 3.87 (s, 3H), 3.84 (s, 3H); 13C NMR (CDCl3) δ 163.1, 162.9, 151.1, 150.5, 148.8, 148.7, 146.5, 146.4, 140.4, 138.2, 131.5, 129.5, 129.5, 129.4, 123.2, 122.1, 119.9, 119.0, 118.4, 118.2, 116.8, 116.6, 115.9, 115.0, 112.7, 111.0, 110.7, 93.3, 92.7, 56.1, 56.0, 55.9; Anal. Calcd for C17H16N2O3. Theoretical: C, 72.84; H, 5.75; N, 9.99. Found: C, 72.48; H, 6.05; N, 9.58.

reactant | 3-(3,4-dimethoxyphenyl)-3-(3'-nitrophenyl)acrylonitrile | 2.3 mmol, 0.7 g | COC=1C=C(C=CC1OC)C(=CC#N)C1=CC(=CC=C1)[N+](=O)[O-] | C17H14N2O4
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 0.1 g | [Pd] | Pd
product | 3-(3'-Aminophenyl)-3-(3,4-dimethoxyphenyl)acrylonitrile | 0.25 g, 56% | NC=1C=C(C=CC1)C(=CC#N)C1=CC(=C(C=C1)OC)OC | C17H16N2O2
